### PR TITLE
[Merged by Bors] - feat(Data/Finset/Card): iterating a function's image on a finite set stabilises

### PR DESCRIPTION
**Pull request by b-mehta**
...and does so in a bounded number of steps (which is why this is Finset-specific).
In a later PR, I'll add this for endofunctions on a fintype, as well as add a Set.Finite version.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Card.lean [hunk 1]
```diff
@@ -910,4 +910,45 @@ theorem eraseInduction [DecidableEq α] {p : Finset α → Prop}
...
+Given a function `f` which sends the finite set `s` to itself, the sequence of images of `s` under
+iterates of `f` is eventually constant. Furthermore, the sequence of images stabilises in fewer
+than `#s` steps.
+-/
+theorem image_iterate_stabilises_lt_card [DecidableEq α] {f : α → α} {s : Finset α}
+    (hs : Set.MapsTo f s s) (hs₀ : s.Nonempty) :
+    ∃ n < #s, ∀ m, n ≤ m → s.image f^[m] = s.image f^[n] := by
+  let g (i : ℕ) : Finset α := s.image f^[i]
+  have : g 0 = s := by simp [g]
+  have (i : ℕ) : #(g i) ≠ 0 := by simp [g, hs₀.ne_empty]
```
Comment (SnirBroshi) [inline Mathlib/Data/Finset/Card.lean]:
```suggestion
  have (i : ℕ) : #(g i) ≠ 0 := hs₀.image _ |>.card_ne_zero
```
and it might be nicer to give this term directly to the penultimate `grind` in `G_eq`, and give `hs₀.card_pos` to the penultimate `grind` in the theorem, then this can be deleted.

File: Mathlib/Data/Finset/Card.lean [hunk 2]
```diff
@@ -910,4 +910,45 @@ theorem eraseInduction [DecidableEq α] {p : Finset α → Prop}
...
+  let G (i : ℕ) : ℕ := #(g i) - 1
+  have hg (i : ℕ) : g (i + 1) ⊆ g i := by
+    simp only [g]
+    rw [Function.iterate_succ, ← image_image]
+    exact image_subset_image hs.finsetImage_subset
```
Comment (SnirBroshi) [inline Mathlib/Data/Finset/Card.lean]: If you tag `image_subset_image` with `gcongr` this can be
```suggestion
    unfold g
    grw [Function.iterate_succ, ← image_image, hs.finsetImage_subset]
```

File: Mathlib/Data/Finset/Card.lean [hunk 3]
```diff
@@ -910,4 +910,45 @@ theorem eraseInduction [DecidableEq α] {p : Finset α → Prop}
...
+  replace hg : Antitone g := antitone_nat_of_succ_le hg
```
Comment (SnirBroshi) [inline Mathlib/Data/Finset/Card.lean]:
```suggestion
  have hg : Antitone g := antitone_nat_of_succ_le fun n ↦ by
```
and then inline the proof of `hg` above after rewriting with `le_iff_subset`

File: Mathlib/Data/Finset/Card.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: NIce idea, although the `unfold` is a bit ugly, hmm

File: Mathlib/Data/Finset/Card.lean [hunk 4]
```diff
@@ -910,4 +910,45 @@ theorem eraseInduction [DecidableEq α] {p : Finset α → Prop}
...
+  have G_eq (i j : ℕ) : G i = G j ↔ g i = g j := by
+    wlog hij : j ≤ i generalizing i j
+    · grind
+    exact ⟨fun h ↦ eq_of_subset_of_card_le (hg hij) (by grind), by grind⟩
+  have hG : Antitone G := fun i j h ↦ by simp only [G]; gcongr #?_ - 1; exact hg h
+  have hG₁ (m : ℕ) : G m = G (m + 1) → G (m + 1) = G (m + 2) := by
+    simp only [G_eq, g, Function.iterate_succ', ← image_image]
+    grind
+  obtain ⟨n, hn, hn'⟩ := Nat.stabilises_of_antitone hG hG₁
+  exact ⟨n, by grind, by grind⟩
```
Comment (SnirBroshi) [inline Mathlib/Data/Finset/Card.lean]: It's not much but this saves 4 lines, and I think having only one function (no `g`) makes it slightly easier to follow
```suggestion
  let G (i : ℕ) : ℕ := #(s.image f^[i]) - 1
  have hg : Antitone (s.image f^[·]) := antitone_nat_of_succ_le fun n ↦ by
    grw [Function.iterate_succ, ← image_image, le_iff_subset, hs.finsetImage_subset]
  have G_eq (i j : ℕ) : G i = G j ↔ s.image f^[i] = s.image f^[j] := by
    wlog hij : j ≤ i generalizing i j
    · grind
    refine ⟨fun h ↦ eq_of_subset_of_card_le (hg hij) ?_, by grind⟩
    grind [hs₀.image _ |>.card_ne_zero]
  simp_rw [← Nat.le_sub_one_iff_lt hs₀.card_pos, show #s - 1 = G 0 by simp [G], ← G_eq]
  refine Nat.stabilises_of_antitone (fun i j h ↦ ?_) ?_
  · unfold G
    gcongr #?_ - 1
    exact hg h
  · simp_rw [G_eq, Function.iterate_succ', ← image_image]
    grind
```
(requires tagging `image_subset_image` with `gcongr`)
I intentionally tried to apply `Nat.stabilises_of_antitone` directly rather than `obtain`ing from it.

File: Mathlib/Data/Finset/Card.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: Heh I originally had it like this, but switched to the `replace` because I think it's more readable and avoids this rewrite

File: Mathlib/Data/Finset/Card.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Data/Finset/Card.lean]: The `unfold` and `simp only` are interchangeable, you can do
```suggestion
    simp only [g]
    grw [Function.iterate_succ, ← image_image, hs.finsetImage_subset]
```
though I think `unfold` is preferable to a non-terminal `simp only`

File: Mathlib/Data/Finset/Card.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/Data/Finset/Card.lean]: The double `hg` confused me, then how about giving them different names instead of `replace`?

File: Mathlib/Data/Finset/Card.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: I've applied a version of suggestion (although I don't think it's better in general - needing fewer lemma names and more flexible automation is usually a good thing for robustness!)
But I don't think it's nicer to give this term in the grind - putting this explicit `have` is nice for readability

Comment (SnirBroshi) [reply Mathlib/Data/Finset/Card.lean]: idk about readability, this looks unused while it's actually used by two `grind`s

File: Mathlib/Data/Finset/Card.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: The `replace` was very intentional here - I'm strengthening the hypothesis so renaming is the more reasonable choice, and the old `hg` is removed so there's no double `hg` around. But anyway, I've amended.

File: Mathlib/Data/Finset/Card.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: I updated to something similar, trying to keep the rewrites which aren't generalised clearly separate

File: Mathlib/Data/Finset/Card.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: I don't follow - do you think it's unexpected that `grind` uses local hypotheses? I think it's nice for readability because it makes it clear that the `G` I'm about to define doesn't invoke a junk value

File: Mathlib/Data/Finset/Card.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: this is a cute golf but imo this is quite a bit harder to follow - the chain of `have` make the proof more clearly readable without the infoview (and `show` inside `simp_rw` is very unpleasant!)

Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: let's see what other reviewers think here!

Comment (b-mehta) [reply Mathlib/Data/Finset/Card.lean]: I found an alternate golf here, which also has just one function. The idea is that since `g` has mathematical meaning, and `G` is more an artifact of the induction setup, I'd rather remove `G` than `g`. And then I can get something shorter than both of our proofs!

**Review by joneugster — APPROVED** [review]
Thanks, LGTM!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
bors merge

**Comment by b-mehta** [comment]
bors merge
